US04064247
Carbon disulphide (14 g.) is added dropwise, with vigorous stirring, to a solution of (R)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (33.9 g.) in 0.6N sodium hydroxide solution (1,000 cc.). After one hour at a temperature of about 20° C., a precipitate appears; stirring is continued for 15 hours. The mixture is neutralised by adding 4N hydrochloric acid. The crystals formed are filtered off and washed with water and then with ethanol. (R)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (30.0 g.) is thus obtained in the form of white crystals melting at 150° C.

reactant | Carbon disulphide | 14 g | C(=S)=S | CS2
reactant | (R)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 33.9 g | OS(=O)(=O)OC[C@@H]1NCC2=CC=CC=C2C1 | C10H13NO4S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | sodium hydroxide | 0.6N, 1,000 cc | [OH-].[Na+]
product | (R)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 30.0 g | C1SC(N2CC=3C=CC=CC3C[C@@H]21)=S | C11H11NS2
